US04568760
12.7 of N,N-dimethyl-cyclohexylamine were dropped into 9.8 g (0.1 mole) of the S-enantiomer of the lactic acid and 30 g of chloromethyl-dimethyl-n-propyl-silane at room temperature with stirring. The reaction mixture was heated to 100° C. for 16 hours. After cooling the reaction mixture to room temperature 50 ml of diethylether were added, the precipitate which deposited was filtered with suction, the filtrate was concentrated under reduced pressure and the remaining residue was distillated under reduced pressure. 11.7 g (54.2% of theory) of S-enantiomer of the 2-hydroxypropionic acid (dimethyl-n-propyl-silyl)-methylester of a purity of 90% were obtained in this manner. Boiling point: 105°-108° C./18.6 mbar.

reactant | N,N-dimethyl-cyclohexylamine | CN(C)C1CCCCC1 | C8H17N
reactant | lactic acid | C(C(O)C)(=O)O | C3H6O3
reactant | chloromethyl-dimethyl-n-propyl-silane | 30 g | ClC[Si](CCC)(C)C | C6H15ClSi
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
product | 2-hydroxypropionic acid (dimethyl-n-propyl-silyl)-methylester | C[Si](CCC)(C)COC(C(C)O)=O | C9H20O3Si
